US08633173B2
[5-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine was prepared from 5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (125 mg, 0.43 mmol) and 1-(4-bromobenzyl)-4-methylpiperzine (129 mg, 0.48 mmol) in a manner analogous to Example 77 to yield [5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine (91 mg, 44%) as an off-white powder following purification on a 4 g Isco silica gel column using methanol in dichloromethane (0-20%) as eluent. MP=232-234° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.62 (br s, 1H), 8.78 (s, 1H), 8.36 (d, J=7.50 Hz, 1H), 8.11 (d, J=7.50 Hz, 1H), 7.87 (t, J=17.1 Hz, 8.5 Hz, 1H), 7.70 (m, 1H), 7.62 (m, 3H), 7.35 (d, J=7.5 Hz, 1H), 7.16 (d, 9.63 Hz, 2H), 3.37-3.30 (m, 5H), 2.31 (br s, 8H), 2.15 (s, 3H). MS=477 (MH)+.

reactant | 5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.43 mmol, 125 mg | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 1-(4-bromobenzyl)-4-methylpiperzine | 0.48 mmol, 129 mg | BrC1=CC=C(CN2CCN(CC2)C)C=C1 | C12H17BrN2
product | [5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine | 91 mg, 44% | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)CN2CCN(CC2)C | C25H28N6O2S
